US09403818B2
Preparation of Compound 4 8-[4-(aminomethyl)-3-fluoro-phenyl]-1-cyclopropyl-9-methyl-4-oxoquinolizine-3-carboxylic acid
A solution of 4M hydrochloric acid in dioxane (1 mL, 4 mmol) was added to a solution of 8-(4-((tert-butoxycarbonylamino)methyl)-3-fluorophenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid (24 mg, 0.051 mmol) in ACN (4 mL). The mixture was stirred for 4 h and a suspension was formed. The product compound 4 was collected by filtration (17.7 mg, 78%).

reactant | hydrochloric acid | 4M | Cl | ClH
reactant | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
reactant | 8-(4-((tert-butoxycarbonylamino)methyl)-3-fluorophenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | 0.051 mmol, 24 mg | C(C)(C)(C)OC(=O)NCC1=C(C=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C26H27FN2O5
solvent | ACN | 4 mL | C(C)#N | C2H3N
product | 8-[4-(aminomethyl)-3-fluoro-phenyl]-1-cyclopropyl-9-methyl-4-oxoquinolizine-3-carboxylic acid | NCC1=C(C=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C21H19FN2O3
